US08703742B2
4-Fluoro-2,3-dihydroxy-benzaldehyde
To a solution of 3-fluoro-benzene-1,2-diol (20 g, 156 mmol) in anhydrous acetonitrile (400 mL) was added magnesium chloride (37.1 g, 312 mmol), paraformaldehyde (31.6 g) and triethylamine (134 mL, 975 mmol). The reaction mixture was heated at 80° C. for 8 h. The reaction mixture was cooled to room temperature and the solid was collected by filtration. The solid was treated with cold 2 N HCl and the aqueous layer was extracted with EtOAc. The organic layer was concentrated in vacuo yielding 20.4 g of crude. After a second run 40.8 g of crude was dissolved in DMF (1 L), cooled to 0° C., added to Cs2CO3 (340 g, 1.04 mol) portion-wise. Then methyl iodide (330 mL, 5.28 mol) was added. After warming to room temperature and stirring overnight the solution was filtered, ethyl acetate was added and the organic layer was washed with water (3×). After concentration in vacuo the product was purified by Biotage silica gel chromatography (2% to 3% to 10% to 20% EtOAc/hexanes) resulting in 14.8 g of dimethoxy compound. This material was dissolved in DCM and cooled to −30° C. and BCl3 (1 M in DCM, 134 mL, 0.1343 mol) was added to the solution at −30° C. After overnight at room temperature, the solution was cooled to −70° C. and BBr3 (1 M in DCM, 67.25 mL, 0.067 mol) was added. After overnight warming to room temperature, the solution was cooled in an ice bath and slowly ice water was added. The DCM layer was separated and the aqueous layer was extracted with DCM (2×). The combined organic layer was extracted with brine (2×), dried over Na2SO4, filtered and concentrated in vacuo. After triturating the residue obtained with hexanes/DCM (6:4) the 5.60 g (11% yield) of the title compound obtained was a brownish pink solid. This material was used in the next step without further purification. 1H NMR (400 MHz, DMSO-d6) δ (ppm): 11.36 (s, 1H), 9.83 (s, 1H), 7.16-7.13 (m, 1H), 6.82-6.78 (m, 1H), 5.48 (brs, 1H). 19F NMR (376 MHz, DMSO-d6 with D2O) δ (ppm): −119.03-−119.08 (m, 1F).

reactant | 3-fluoro-benzene-1,2-diol | 156 mmol, 20 g | FC1=C(C(=CC=C1)O)O | C6H5FO2
reactant | magnesium chloride | 312 mmol, 37.1 g | [Cl-].[Mg+2].[Cl-]
reactant | paraformaldehyde | 31.6 g | C=O | CH2O
reactant | triethylamine | 975 mmol, 134 mL | C(C)N(CC)CC | C6H15N
reactant | Cs2CO3 | 1.04 mol, 340 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | methyl iodide | 5.28 mol, 330 mL | CI | CH3I
reactant | BCl3 | 0.1343 mol, 1 M, 134 mL | B(Cl)(Cl)Cl | BCl3
reactant | BBr3 | 0.067 mol, 1 M, 67.25 mL | B(Br)(Br)Br | BBr3
solvent | acetonitrile | 400 mL | C(C)#N | C2H3N
solvent | DMF | 1 L | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-Fluoro-2,3-dihydroxy-benzaldehyde | 5.60 g, 11% yield | FC1=C(C(=C(C=O)C=C1)O)O | C7H5FO3
